US04927941
To a solution of 914 mg (4.54 mmol) of 1-(2'-hydroxy-3'-methoxypropyl)-2-nitroimidazole in 5.0 ml of dry dioxane, 1.00 g (6.20 mmol) of DAST was dropwise added with cooling by ice and then reacted for 2 hours at room temperature with stirring. After reaction, to the solution, 5.0 ml of ethanol was added to decompose excess DAST. The solution was then concentrated and subjected to isolation and purification by silica gel column chromatography to give 480 mg of 1-(2-'-fluoro-3'-methoxypropyl)-2-nitroimidazole.

reactant | 1-(2'-hydroxy-3'-methoxypropyl)-2-nitroimidazole | 4.54 mmol, 914 mg | OC(CN1C(=NC=C1)[N+](=O)[O-])COC | C7H11N3O4
reactant | DAST | 6.20 mmol, 1.00 g | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | ethanol | 5.0 ml | C(C)O | C2H6O
solvent | dioxane | 5.0 ml | O1CCOCC1 | C4H8O2
product | 1-(2-'-fluoro-3'-methoxypropyl)-2-nitroimidazole | 480 mg | FC(CN1C(=NC=C1)[N+](=O)[O-])COC | C7H10FN3O3
